US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-cyano-1H-indol-5-yl)-cyclopropanecarboxamide (45 mg, 0.11 mmol) was suspended in a mixture of methanol (1.8 mL), 30% aqueous hydrogen peroxide (0.14 mL, 4.4 mmol) and 10% aqueous sodium hydroxide (0.150 mL). The resulting suspension was stirred for 72 h at room temperature. The hydrogen peroxide was then quenched with sodium sulfite. The reaction mixture was diluted with 0.5 mL of N,N-dimethylformamide, filtered, and purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-2-tert-butyl-1H-indole-7-carboxamide. ESI-MS m/z calc. 419.2, found 420.3 (M+1)+. Retention time of 1.74 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-cyano-1H-indol-5-yl)-cyclopropanecarboxamide | 0.11 mmol, 45 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C#N)C(C)(C)C | C24H23N3O3
reactant | hydrogen peroxide | 4.4 mmol, 0.14 mL | OO | H2O2
reactant | sodium hydroxide | 0.150 mL | [OH-].[Na+]
solvent | methanol | 1.8 mL | CO | CH4O
product | 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-2-tert-butyl-1H-indole-7-carboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C(=O)N)C(C)(C)C | C24H25N3O4
